US05240935
A mixture of 3,4-lutidine (112 mL, 1.0 mole), benzyl chloride (115 mL, 1.0 mole) and isopropanol (500 mL) was refluxed under nitrogen for 5 hours and then was stirred at room temperature for 60 hours. The mixture was diluted with ether and the resulting white precipitate was filtered and dried to afford 178.3 g (76%) of N-(phenylmethyl)-3,4-dimethylpyridinium chloride.

reactant | 3,4-lutidine | 1.0 mole, 112 mL | N1=CC(=C(C=C1)C)C | C7H9N
reactant | benzyl chloride | 1.0 mole, 115 mL | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | isopropanol | 500 mL | C(C)(C)O | C3H8O
solvent | ether | CCOCC | C4H10O
product | N-(phenylmethyl)-3,4-dimethylpyridinium chloride | 178.3 g, 76% | [Cl-].C1(=CC=CC=C1)C[N+]1=CC(=C(C=C1)C)C | InChI=1S/C14H16N.ClH/c1-12-8-9-15(10-13(12)2)11-14-6-4-3-5-7-14;/h3-10H,11H2,1-2H3;1H/q+1;/p-1
